US08648066B2
4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-7-[5-(methyloxy)pyridin-3-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepine.
Prepared according to the method of example 5 by using 3-bromo-5-methoxypyridine and [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, DMSO-d6): 8.49 (s, 1H), 8.40 (s, 1H), 8.26 (s, 1H), 7.75 (s, 1H), 7.59 (m, 2H), 7.07 (d, 1H), 4.65 (s, 2H), 4.35 (m, 2H), 3.90 (s, 3H), 3.84 (m, 2H), 2.67 (t, 2H), 2.44 (s, 2H), 1.57 (t, 2H), 0.82 (s, 6H); MS (EI) for C25H28N4O2: 417 (MH+).

reactant | 3-bromo-5-methoxypyridine | BrC=1C=NC=C(C1)OC | C6H6BrNO
reactant | [4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)C | C19H24BN3O3
product | 4-(6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-7-[5-(methyloxy)pyridin-3-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepine | CC1(CC=2C(=NC=NC2CC1)N1CCOC2=C(C1)C=C(C=C2)C=2C=NC=C(C2)OC)C | C25H28N4O2
